Colpitts Oscillator Example

.model KST10 NPN level=2 bf=60 vje=0.95

Vcc 1 0 DC 15

R1 1 2 10k
R2 2 0 4.7k
Rc 1 3 1k
Re 4 0 1.5k
Ce 4 0 0.01u

C3 2 5 0.1u
C4 3 vout 0.1u
Rl vout 0 1Meg
Q1 3 2 4 KST10

L 5 3 10m
C1 5 0 24n
C2 3 0 240n

.end
